US05276028
3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-morpholinoimidazo[1,5-a]quinoxalin
A solution of potassium t-butoxide (3.7 g, 32 mmol) in dry DMF (25 ml) was added to a stirred solution of 2-chloro-3-morpholino-quinoxaline (4 g, 16 mmol) and 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole in dry DMF (50 ml), the temperature being kept at 0°-5° C. Then the temperature was raised to 20° C. and the solvent was evaporated in vacuo. The residue was partitioned between water (50 ml) and dichloromethane (50 ml). The organic phase was dried and evaporated and the residue was triturated with a small amount of ethyl acetate. The resulting crystalline product was collected by filtration and dried to give 3.2 g of the title compound, m.p. 169°-173° C. (Compound 9).

reactant | potassium t-butoxide | 32 mmol, 3.7 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-3-morpholino-quinoxaline | 16 mmol, 4 g | ClC1=NC2=CC=CC=C2N=C1N1CCOCC1 | C12H12ClN3O
reactant | 5-cyclopropyl-3-isocyanomethyl-1,2,4-oxadiazole | C1(CC1)C1=NC(=NO1)C[N+]#[C-] | C7H7N3O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-(5-cyclopropyl-1,2,4-oxadiazol-3-yl)-4-morpholinoimidazo[1,5-a]quinoxalin | 3.2 g | C1(CC1)C1=NC(=NO1)C=1N=CN2C1C(=NC1=CC=CC=C21)N2CCOCC2 | C19H18N6O2
